US07186716B2
To a mixture of 1H-pyrrole-2-carboxylic acid methylamide (430 mg, 3.5 mmol) and 2-chloronicotinoyl chloride (0.6 g, 3.4 mmol) in benzene (15 mL) at 0° C. was added a dropwise solution of tin (IV) chloride (1.6 g) in benzene (5 mL). The mixture was allowed to warm up slowly to room temperature and stirred for 4 hours. The reaction was diluted with ethyl acetate, washed with water, brine, dried and concentrated to give 320 mg (35%) of 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-2-carboxylic acid methylamide.

reactant | 1H-pyrrole-2-carboxylic acid methylamide | 3.5 mmol, 430 mg | CNC(=O)C=1NC=CC1 | C6H8N2O
reactant | 2-chloronicotinoyl chloride | 3.4 mmol, 0.6 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | tin (IV) chloride | 1.6 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-2-carboxylic acid methylamide | 320 mg, 35% | CNC(=O)C=1NC(=CC1)C(=O)C=1C(=NC=CC1)Cl | C12H10ClN3O2
